US08202873B2
Dissolve {4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol (1.00 g, 2.64 mmol) in DCM (60 mL). Add thionyl chloride (6 mL) and stir at room temperature for 2 hr. Concentrate in vacuo to give 3′-(4-chloromethyl-phenyl)-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride as a yellow solid (1.20 g, 100%). MS (ES): m/z=397 [M+H]+

reactant | {4-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol | 2.64 mmol, 1.00 g | CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CO | C21H26N6O
reactant | thionyl chloride | 6 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 3′-(4-chloromethyl-phenyl)-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride | 1.20 g, 100% | Cl.Cl.ClCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C | InChI=1S/C21H25ClN6.2ClH/c1-16-19(14-25-26(16)2)15-27-9-11-28(12-10-27)21-20(23-7-8-24-21)18-5-3-17(13-22)4-6-18;;/h3-8,14H,9-13,15H2,1-2H3;2*1H
